US06291448B1
Step 2: 1-Methyl-1,3-dihydro-2-thia-1,3-diaza-cyclopenta[b]naphthalene 2,2-dioxide
A solution of 2-amino-3-methylamino-naphthalene (168 mg, 0.98 mmol) and sulfamide (44 mg, 0.98 mmol) in anhydrous diglyme (2 mL) was added dropwise over 5 minutes to a flask heated in a 160° C. oil bath. The reaction mixture was heated at 160° C. for an additional 30 minutes, then cooled to room temperature and evaporated under vacuum. The residue was partitioned between ethyl acetate (20 mL) and 2N hydrochloric acid (10 mL). The organic phase was washed with 2N hydrochloric acid (10 mL) and brine (10 mL), dried over magnesium sulfate, and evaporated under vacuum to afford the title compound (160 mg) as a solid.

reactant | 2-amino-3-methylamino-naphthalene | 0.98 mmol, 168 mg | NC1=CC2=CC=CC=C2C=C1NC | C11H12N2
reactant | sulfamide | 0.98 mmol, 44 mg | S(=O)(=O)(N)N | H4N2O2S
solvent | diglyme | 2 mL | COCCOCCOC | C6H14O3
product | 1-Methyl-1,3-dihydro-2-thia-1,3-diaza-cyclopenta[b]naphthalene 2,2-dioxide | 160 mg | CN1S(NC=2C1=CC1=CC=CC=C1C2)(=O)=O | C11H10N2O2S
